US08030499B2
Step 248-1: Synthesis of 5-chloro-3-(5-chloro-2-methoxyphenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one
With 14.6 g of 2-bromo-4-chloro anisole and 8.00 g of 5-chloroisatin as starting materials, 13.3 g of the title compound (yellow solid) was obtained by a similar method to Step 21-1.

reactant | 2-bromo-4-chloro anisole | 14.6 g | BrC1=C(C=CC(=C1)Cl)OC | C7H6BrClO
reactant | 5-chloroisatin | 8.00 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
product | 5-chloro-3-(5-chloro-2-methoxyphenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one | 13.3 g | ClC=1C=C2C(C(NC2=CC1)=O)(O)C1=C(C=CC(=C1)Cl)OC | C15H11Cl2NO3
